US06420567B1
To a solution of N2-(3-cyanomethyl-2,4,6-trimethylphenyl)-3-[N-(3,4-dimethylisoxazol-5-yl)-N-methoxymethylaminosulfonyl]-2-thiophenecarboxamide (2.29 g, 4.56 mmol) in THF (10 mL) was added concentrated hydrochloric acid (5 mL). The reaction was heated at 65° C. for 2 hours, then allowed to cool to room temperature. The mixture was poured into ice water (100 mL), extracted with ethyl acetate (3×100 mL), washed with saturated sodium chloride (150 mL), dried (MgSO4), then concentrated. The residue was purified by reverse-phase HPLC (20-80% acetonitrile in water). Acetonitrile was removed in vacuo. The aqueous layer was extracted with ethyl acetate (3×100 mL). The extracts were combined and washed with saturated sodium chloride (200 mL), then with saturated sodium bicarbonate (3×200 mL). The organic layer was washed with saturated sodium chloride (200 mL), dried (MgSO4), then concentrated. The residue was purified by reverse-phase HPLC (20-80% acetonitrile in water). Acetonitrile was removed in vacuo. The aqueous layer was extracted with ethyl acetate (3×100 mL). The extracts were combined and washed with saturated sodium chloride (200 mL), then with saturated sodium bicarbonate (3×200 mL). The organic layer was washed with saturated sodium chloride (200 mL), dried (MgSO4), then concentrated. The residue was dissolved in water (300 mL) and lyophilized to give N2-(3-cyanomethyl-2,4,6-trimethylphenyl)-3-[(3,4-dimethyl-5-isoxazolyl)sulfamoyl]-2-thiophenecarboxamide, Na-salt (0.45 g, 21%) as a white powder, mp 153-173° C. 1H NMR (400 MHZ, DMSO-d6δ7.69 (d, J=4.76 Hz, 1H), 7.35 (d, J=5.16 Hz, 1H), 7.02 (s, 1H), 3.90 (s, 2H), 2.32 (s, 3H), 2.20 (s, 3H), 2.13 (s, 3H), 1.95 (s, 3H), 1.55 (s, 3H) IR (KBr) 3449, 2249, 1623, 1421, 1121 cm−1.

reactant | N2-(3-cyanomethyl-2,4,6-trimethylphenyl)-3-[N-(3,4-dimethylisoxazol-5-yl)-N-methoxymethylaminosulfonyl]-2-thiophenecarboxamide | 4.56 mmol, 2.29 g | C(#N)CC=1C(=C(C(=CC1C)C)NC(=O)C=1SC=CC1S(=O)(=O)N(COC)C1=C(C(=NO1)C)C)C | C23H26N4O5S2
reactant | hydrochloric acid | 5 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N2-(3-cyanomethyl-2,4,6-trimethylphenyl)-3-[(3,4-dimethyl-5-isoxazolyl)sulfamoyl]-2-thiophenecarboxamide | C(#N)CC=1C(=C(C(=CC1C)C)NC(=O)C=1SC=CC1S(NC1=C(C(=NO1)C)C)(=O)=O)C | C21H22N4O4S2
